US09359340B2
(S)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one
The tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate (2.50 g, 4.48 mmol) was dissolved in dioxane (22.4 mL) and treated with 4M HCl in dioxane (22.4 mL, 89.6 mmol) at room temperature. The resulting solution was allowed to stir overnight to completion by LCMS analysis of the crude. The solution was concentrated in vacuo to afford a gel that was dissolved in a minimal amount of methanol (10 mL). The solution was transferred via pipette to stirred ether (300 mL) to afford a white precipitate of desired product. The addition was about half when the white precipitate melted into a yellow gel. The material was concentrated in vacuo to afford a yellow gel which was allowed to stand under reduced pressure overnight to yield (S)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one dihydrochloride as a light yellow powder (2.14 g, 90%).

reactant | tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate | 4.48 mmol, 2.50 g | ClC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O | C29H40ClN5O4
reactant | HCl | 4M | Cl | ClH
reactant | ether | 300 mL | CCOCC | C4H10O
solvent | dioxane | 22.4 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 89.6 mmol, 22.4 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one | ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O)CNC(C)C | C24H32ClN5O2
